US08084469B2
tert-Butyl 3-(3-ethoxy-1,2,4-oxadiazol-5-yl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1-carboxylate [racemic cis isomer mixture]
442 mg (1.09 mmol) of 1-(tert-butoxycarbonyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-piperidine-3-carboxylic acid were dissolved in 11.8 ml of dioxane and 5.9 ml of DMF, heated to 60° C. and admixed with 264 mg (1.63 mmol) of 1,1″-carbonyldiimidazole. The reaction mixture was stirred at this temperature for three hours and then admixed with 170 mg (1.63 mmol) of ethyl N′-hydroxyimidocarbamate [G. Zinner, G. Nebel, Arch. Pharm. 1970, 303, 385-390]. The mixture was left to stir at 50° C. for one hour and thereafter at 115° C. for nine hours. The reaction mixture was concentrated under reduced pressure, taken up in ethyl acetate and washed three times with water. The organic phase was dried over magnesium sulphate, filtered and concentrated under reduced pressure. Yield: 387 mg (75% of theory, purity 61%)

reactant | 1-(tert-butoxycarbonyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-piperidine-3-carboxylic acid | 1.09 mmol, 442 mg | C(C)(C)(C)OC(=O)N1CC(CC(C1)C1=CC(=C(C=C1)OC(F)(F)F)F)C(=O)O | C18H21F4NO5
reactant | ethyl N′-hydroxyimidocarbamate | 1.63 mmol, 170 mg | ON=C(N)OCC | C3H8N2O2
solvent | dioxane | 11.8 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 5.9 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(3-ethoxy-1,2,4-oxadiazol-5-yl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1-carboxylate | C(C)OC1=NOC(=N1)C1CN(CC(C1)C1=CC(=C(C=C1)OC(F)(F)F)F)C(=O)OC(C)(C)C | C21H25F4N3O5
